* Schematics Netlist *

* ----
* Include model libraries here
* ----


.include jpdoplib.inc
XIC1A chkpt2 _N_7 Vdd GND Out OPBW
XIC1B _N_6 chkpt1 Vdd Gnd chkpt1 OPBW
R1 Vdd _N_6 100K
R2 _N_6 GND 10K
R3 chkpt2 GND 3K9
R4 Out _N_7 220K
R5 _N_7 GND 10K
RTH1 chkpt1 chkpt2 10K
.dc RTH1 27445 4165 -100
V1 Vdd GND DC 5V

* ----
* End of TinyCAD generated netlist
* ----
.end
